US06121307
[3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-Methoxy-phenoxy)ethyl]-amine
A mixture of [3-(5-fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy) ethyl]-benzylamine (0.94 g, 2.2 mol) and 10% palladium on carbon (250 mg) in ethanol was hydrogenated for 20 hours. The catalyst was filtered off and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 0.63 g (85%) of product as an off-white solid: mp 125-126° C.

reactant | [3-(5-fluoro-1H-indol-3-yl)-propyl]-[2-(2-methoxy-phenoxy) ethyl]-benzylamine | 2.2 mol, 0.94 g | FC=1C=C2C(=CNC2=CC1)CCCN(CC1=CC=CC=C1)CCOC1=C(C=CC=C1)OC | C27H29FN2O2
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | [3-(5-Fluoro-1H-indol-3-yl)-propyl]-[2-(2-Methoxy-phenoxy)ethyl]-amine | 0.63 g, 85% | FC=1C=C2C(=CNC2=CC1)CCCNCCOC1=C(C=CC=C1)OC | C20H23FN2O2
